US07319104B2
To a −78C solution of LDA (generated from 8 ml of 2.5 M nBuLi and 2.1 ml of diisopropylamine) in THF (120 ml) was added dropwise, over 80 min, a solution a 4′-bromoacetophenone (2.98 g, 14.97 mmol) in THF (45 ml). The mixture continued to stir at −78C for 1 h, followed by addition of 1-(cyclopropylcarbonyl)-1H-1,2,3-benzotriazole (2.56 g, 13.65 mmol) in THF (45 ml). The mixture was warmed to rt overnight. The yellow mixture was poured into water and extracted with Et2O (2×300 ml). The combined organic phases were washed with water, dried with MgSO4, and concentrated in vacuo. The crude material was purified by flash chromatography (CH2Cl2/hexanes, 10:90 to 30:70) to yield 1-(4-bromophenyl)-3-cyclopropyl-1,3-propanedione as an orange solid (1.60 g, 44%).

reactant | LDA | 2.5 M, 8 ml | [Li+].CC(C)[N-]C(C)C
reactant | 4′-bromoacetophenone | 14.97 mmol, 2.98 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | 1-(cyclopropylcarbonyl)-1H-1,2,3-benzotriazole | 13.65 mmol, 2.56 g | C1(CC1)C(=O)N1N=NC2=C1C=CC=C2 | C10H9N3O
reactant | water | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-3-cyclopropyl-1,3-propanedione | 1.60 g, 44% | BrC1=CC=C(C=C1)C(CC(=O)C1CC1)=O | C12H11BrO2
